US06258812B1
1-(3-Hydroxyphenoxy-4-(4-pyridylmethyl)phthalazine
A solution of 0.2 g (1.82 mmol) resorcinol in 5 ml dioxane is spiked with 0.37 ml 5.4M methanolic sodium methylate solution (2 mmol) The crystalline residue is then suspended in 5 ml dioxane, 0.511 g (2 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine is added, and the reaction mixture stirred under nitrogen atmosphere for 18 h at 120° C. After cooling to RT and filtration, the filtrate is evaporated under vacuum, and the residue purified by means of flash chromatography on silica gel with particle size 0.04-0.06 mm, using acetate and ethyl acetate/methanol mixtures (50:1 and 25:1). The product-containing fractions are evaporated under vacuum, the crystalline residue suspended in about 5 ml dichloromethane, and filtered. Title compound is obtained after drying of the crystallizate under HV (6 h, 100° C.), m.p. 206-207° C.; ESI-MS: (M+H)+=330.

reactant | resorcinol | 1.82 mmol, 0.2 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | sodium methylate | 2 mmol, 5.4M, 0.37 ml | C[O-].[Na+]
reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 2 mmol, 0.511 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-Hydroxyphenoxy-4-(4-pyridylmethyl)phthalazine | OC=1C=C(OC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=CC1 | C20H15N3O2
